US08207199B2
To a mixture of 1-[(pyridin-3 yloxy)carbonyl]piperidine-4-carboxylic acid (1.5 g) and DCM (15 mL) were added 1-hydroxybenzotriazole (HOBt) (0.85 g), benzohydrazine (0.86 g), and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (WSC) hydrochloride (1.21 g), followed by stirring at room temperature for about 15 hours. To the reaction liquid were added chloroform and water, and the organic phase was separated. The organic phase was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 90/10). To the purified product were added diisopropyl ether and methanol, and the resulting solid was collected by filtration and dried under reduced pressure to obtain pyridin-3-yl 4-[(2-benzoylhydrazino)carbonyl]piperidine-1-carboxylic acid (1.22 g).

reactant | 1-[(pyridin-3 yloxy)carbonyl]piperidine-4-carboxylic acid | 1.5 g | N1=CC(=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | 1-hydroxybenzotriazole | 0.85 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzohydrazine | 0.86 g | C1=CC=C(C=C1)C(=O)NN | C7H8N2O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 1.21 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-yl 4-[(2-benzoylhydrazino)carbonyl]piperidine-1-carboxylic acid | 1.22 g | N1=CC(=CC=C1)C1N(CCC(C1)C(=O)NNC(C1=CC=CC=C1)=O)C(=O)O | C19H20N4O4
